US04933355
58 ml of a 1M hexane solution of diisobutyl aluminum hydride was added dropwise at -60° C. to a solution of 4 g of ethyl 3-(2-anilinothiazol-4-yl)acrylate (prepared by the procedure described in Preparation 48) in 40 ml of tetrahydrofuran. The resulting mixture was stirred at -50° C. for 2 hours, then the excess of the reducing reagent was decomposed with 90% aqueous methanol. The mixture was then neutralized with 3N hydrochloric acid and extracted with ethyl acetate. After the extract was dried over anhydrous sodium sulfate. the solvent was evaporated off under reduced pressure, giving crude 3-(2-anilinothiazol-4-yl)allyl alcohol.

reactant | hexane | 1M | CCCCCC | C6H14
reactant | diisobutyl aluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethyl 3-(2-anilinothiazol-4-yl)acrylate | 4 g | N(C1=CC=CC=C1)C=1SC=C(N1)C=CC(=O)OCC | C14H14N2O2S
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 3-(2-anilinothiazol-4-yl)allyl alcohol | N(C1=CC=CC=C1)C=1SC=C(N1)C=CCO | C12H12N2OS
